US06177440B1
40% Methanolic Triton B (0.95 mL, 2.1 mM) was slowly added dropwise to a solution of 5-carbomethoxy-1,2-dihydro-9H-carbazol-4(3H)-one (510 mg, 2.1 mM) in 30 mL of DMF at −10° C. After 3 minutes, 2-benzylbenzyl bromide (548 mg, 2.1 mM) was added and the resultant mixture stirred at room temperature for 6 hours. The mixture was diluted with ethyl acetate and 1 N HCl, washed twice with H2O, once with saturated brine, dried over anhydrous magnesium sulfate, filtered, concentrated, and dried in vacuo. The reside was purified by column chromatography on silica gel (elution with ethyl acetate) to afford 324 mg (36%) of the 9-[(2-benzylphenyl)methyl]-5-carbomethoxy-1,2-dihydrocarbazol-4(3H)-one as a tan solid. 1H NMR (CDCl3) δ 7.45-7.0 (m, 10H), 6.9 (d, 1H, J=8 Hz), 6.3 (d, 1H, J=8 Hz), 5.2 (s, 2H), 4.15 (s, 2H), 4.05 (s, 3H), 2.5 (m, 4H), and 2.1 (m, 2H). IR (KBr, cm−1) 1726, 1653, 1466, 1443, 1411, 1283, 1200, 1119, and 749. MS (ES) m/e 422, 424.

reactant | 5-carbomethoxy-1,2-dihydro-9H-carbazol-4(3H)-one | 2.1 mM, 510 mg | C(=O)(OC)C1=C2C=3C(CCCC3NC2=CC=C1)=O | C14H13NO3
reactant | 2-benzylbenzyl bromide | 2.1 mM, 548 mg | C(C1=CC=CC=C1)C1=C(CBr)C=CC=C1 | C14H13Br
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | HCl | 1 N | Cl | ClH
product | 9-[(2-benzylphenyl)methyl]-5-carbomethoxy-1,2-dihydrocarbazol-4(3H)-one | 324 mg, 36% | C(C1=CC=CC=C1)C1=C(C=CC=C1)CN1C2=CC=CC(=C2C=2C(CCCC12)=O)C(=O)OC | C28H25NO3
